### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): add facts about cliques and colorings of completeMultipartiteGraph

### PR DESCRIPTION
**Pull request by jt496**
Add basic lemmas about cliques and chromatic number of completeMultipartiteGraph.

In particular if a completeMultipartiteGraph is CliqueFree n then it is (n - 1) - colorable. 

This last result is needed for the Andrasfai-Erdos-Sos theorem.

Co-authored-by: Lian Tattersall <lian.tattersall.20@alumni.ucl.ac.uk>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 1]
```diff
@@ -343,6 +346,24 @@ theorem cliqueFree_completeMultipartiteGraph {ι : Type*} [Fintype ι] (V : ι 
   rw [← top_adj, ← f.map_adj_iff, comap_adj, top_adj] at hn
   exact absurd he hn
 
+/-- Embedding of the complete graph on ι into completeMultipartiteGraph on ι nonempty parts-/
+noncomputable def CompleteMultipartiteGraph.topEmbedding {ι : Type*} (V : ι → Type*)
+    [∀ i, Nonempty (V i)] : (⊤ : SimpleGraph ι) ↪g (completeMultipartiteGraph V) where
+  toFun := fun i ↦ ⟨i, Classical.arbitrary (V i)⟩
+  inj' := fun i j h ↦ (Sigma.mk.inj_iff.1 h).1
```
Comment (IvanRenison) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:353]:
```suggestion
  inj' := fun _ _ h ↦ (Sigma.mk.inj_iff.1 h).1
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 2]
```diff
@@ -455,4 +455,32 @@ theorem cliqueFree_of_chromaticNumber_lt {n : ℕ} (hc : G.chromaticNumber < n)
   rw [← hne] at hc
   simpa using hc
 
+/-- The canonical coloring of a completeMultiPartiteGraph with parts indexed by ι -/
+def CompleteMultipartiteGraph.coloring {ι : Type*} (V : ι → Type*) :
+    (completeMultipartiteGraph V).Coloring ι := Coloring.mk (fun v => v.1) (by simp)
```
Comment (IvanRenison) [inline Mathlib/Combinatorics/SimpleGraph/Coloring.lean:460]:
```suggestion
    (completeMultipartiteGraph V).Coloring ι := Coloring.mk (fun v ↦ v.1) (by simp)
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 3]
```diff
@@ -373,6 +376,24 @@ theorem cliqueFree_completeMultipartiteGraph {ι : Type*} [Fintype ι] (V : ι 
   rw [← top_adj, ← f.map_adj_iff, comap_adj, top_adj] at hn
   exact absurd he hn
 
+/-- Embedding of the complete graph on `ι` into `completeMultipartiteGraph` on `ι` nonempty parts.-/
+noncomputable def CompleteMultipartiteGraph.topEmbedding {ι : Type*} (V : ι → Type*)
+    [∀ i, Nonempty (V i)] : (⊤ : SimpleGraph ι) ↪g (completeMultipartiteGraph V) where
+  toFun := fun i ↦ ⟨i, Classical.arbitrary (V i)⟩
+  inj' := fun _ _ h ↦ (Sigma.mk.inj_iff.1 h).1
+  map_rel_iff' := by simp
```
Comment (kbuzzard) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:384]: I think that using `Classical.arbitrary` is not ideal here. Perhaps a more constructive approach will be easier to use, for example the def could eat a function `f : ∀ (i : ι), V i` and then you can give it Classical.arbitrary if you like, but you're free to give it something else if you want.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 4]
```diff
@@ -373,6 +376,24 @@ theorem cliqueFree_completeMultipartiteGraph {ι : Type*} [Fintype ι] (V : ι 
...
+
+theorem CompleteMultipartiteGraph.notCliqueFree_le_card {ι : Type*} [Fintype ι] (V : ι → Type*)
+    [∀ i, Nonempty (V i)] (hc : n ≤ Fintype.card ι ) :
+    ¬ (completeMultipartiteGraph V).CliqueFree n :=
+  fun hf ↦ (cliqueFree_iff.1 <| hf.mono hc).elim' <| (CompleteMultipartiteGraph.topEmbedding V).comp
+    (Iso.completeGraph (Fintype.equivFin ι).symm).toEmbedding
```
Comment (kbuzzard) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:390]: This theorem (and presumably the others) will be true for any `f` as above.

**Review by kbuzzard — APPROVED** [review]
One definition isn't idiomatic but this is easily fixable and otherwise this looks fine.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean (hunk 3 above)
Comment (jt496) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:384]: Thanks, that's a good point! I've updated all these results to use `f : ∀ (i : ι), V i`

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 5]
```diff
@@ -330,6 +331,9 @@ theorem not_cliqueFree_card_of_top_embedding [Fintype α] (f : (⊤ : SimpleGrap
   rw [not_cliqueFree_iff]
   exact ⟨(Iso.completeGraph (Fintype.equivFin α)).symm.toEmbedding.trans f⟩
 
+lemma not_cliqueFree_zero : ¬ G.CliqueFree 0 :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:334]:
```suggestion
@[simp] lemma not_cliqueFree_zero : ¬ G.CliqueFree 0 :=
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 6]
```diff
@@ -373,6 +377,37 @@ theorem cliqueFree_completeMultipartiteGraph {ι : Type*} [Fintype ι] (V : ι 
   rw [← top_adj, ← f.map_adj_iff, comap_adj, top_adj] at hn
   exact absurd he hn
 
+namespace completeMultipartiteGraph
+
+variable {ι : Type*} (V : ι → Type*)
+
+/-- Embedding of the complete graph on `ι` into `completeMultipartiteGraph` on `ι` nonempty parts.-/
+def topEmbedding (f : ∀ (i : ι), V i) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:385]:
```suggestion
@[simps]
def topEmbedding (f : ∀ (i : ι), V i) :
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 7]
```diff
@@ -373,6 +377,37 @@ theorem cliqueFree_completeMultipartiteGraph {ι : Type*} [Fintype ι] (V : ι 
...
+    (⊤ : SimpleGraph ι) ↪g completeMultipartiteGraph V where
+  toFun := fun i ↦ ⟨i, f i⟩
+  inj' := fun _ _ h ↦ (Sigma.mk.inj_iff.1 h).1
+  map_rel_iff' := by simp
+
+theorem notCliqueFree_le_card [Fintype ι] (f : ∀ (i : ι), V i) (hc : n ≤ Fintype.card ι) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:391]:
```suggestion
theorem not_cliqueFree_of_le_card [Fintype ι] (f : ∀ (i : ι), V i) (hc : n ≤ Fintype.card ι) :
```
and similarly below. The idea is that `cliqueFree` is a token, but `notCliqueFree` isn't, instead it's `not` getting applied to `cliqueFree`. And the `of` is saying that `le_card` is one of the assumptions.

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 8]
```diff
@@ -373,6 +377,37 @@ theorem cliqueFree_completeMultipartiteGraph {ι : Type*} [Fintype ι] (V : ι 
...
+    ¬ (completeMultipartiteGraph V).CliqueFree n :=
+  fun hf ↦ (cliqueFree_iff.1 <| hf.mono hc).elim' <|
+    (topEmbedding V f).comp (Iso.completeGraph (Fintype.equivFin ι).symm).toEmbedding
+
+theorem notCliqueFree_infinite [Infinite ι] (f : ∀ (i : ι), V i) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:396]:
```suggestion
theorem not_cliqueFree_of_infinite [Infinite ι] (f : ∀ (i : ι), V i) :
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 9]
```diff
@@ -373,6 +377,37 @@ theorem cliqueFree_completeMultipartiteGraph {ι : Type*} [Fintype ι] (V : ι 
...
+    ¬ (completeMultipartiteGraph V).CliqueFree n :=
+  fun hf ↦ not_cliqueFree_of_top_embedding (topEmbedding V f |>.comp
+            <| Embedding.completeGraph <| Fin.valEmbedding.trans <| Infinite.natEmbedding ι) hf
+
+theorem notCliqueFree_le_encard (f : ∀ (i : ι), V i) (hc : n ≤ ENat.card ι) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:401]:
```suggestion
theorem not_cliqueFree_of_le_eNatCard (f : ∀ (i : ι), V i) (hc : n ≤ ENat.card ι) :
```

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 10]
```diff
@@ -373,6 +377,38 @@ theorem cliqueFree_completeMultipartiteGraph {ι : Type*} [Fintype ι] (V : ι 
...
+    ¬ (completeMultipartiteGraph V).CliqueFree n :=
+  fun hf ↦ (cliqueFree_iff.1 <| hf.mono hc).elim' <|
+    (topEmbedding V f).comp (Iso.completeGraph (Fintype.equivFin ι).symm).toEmbedding
+
+theorem not_cliqueFree_of_infinite [Infinite ι] (f : ∀ (i : ι), V i) :
+    ¬ (completeMultipartiteGraph V).CliqueFree n :=
+  fun hf ↦ not_cliqueFree_of_top_embedding (topEmbedding V f |>.comp
+            <| Embedding.completeGraph <| Fin.valEmbedding.trans <| Infinite.natEmbedding ι) hf
+
+theorem not_cliqueFree_of_le_eNatCard (f : ∀ (i : ι), V i) (hc : n ≤ ENat.card ι) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:402]: First group of caps gets lowercased when lowerPascalCasing
```suggestion
theorem not_cliqueFree_of_le_enatCard (f : ∀ (i : ι), V i) (hc : n ≤ ENat.card ι) :
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

**Comment by jt496** [comment]
Thanks!

bors r+
